US07651630B2
55.3 g of methyl 4-vinylcyclohexane-carboxylate was dissolved in 60 mL of methanol, and was cooled to 15° C. Then, 100 g of 20% sodium hydroxide aqueous solution was added thereto. The solution was further stirred at room temperature for 2 hours, and then concentrated hydrochloric acid was added to make the system acidic. Extraction was performed with hexane, and then the organic phase was washed with saturated saline. The resultant product was dried over anhydrous sodium sulfate, and concentrated, to obtain 52.4 g of reaction mixture. 23.0 g of trans-4-vinylcyclohexane carboxylic acid was obtained by recrystallization from hexane.

reactant | methyl 4-vinylcyclohexane-carboxylate | 55.3 g | C(=C)C1CCC(CC1)C(=O)OC | C10H16O2
reactant | sodium hydroxide | 100 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | hexane | CCCCCC | C6H14
solvent | methanol | 60 mL | CO | CH4O
product | trans-4-vinylcyclohexane carboxylic acid | 23.0 g | C(=C)[C@@H]1CC[C@H](CC1)C(=O)O | C9H14O2
